US07030128B2
2,4-Dichloropyrimidine (317 mg, 2.13 mmol) was coupled to 3-tributylstannyl-7-trifluoromethylimidazo[1,2-α]pyrimidine (1.4 mmol) by the method of Example 1 to give 3-(2-chloropyrimidin-4-yl)-7-trifluoromethylimidazo[1,2-α]pyrimidine (167 mg) as a white solid: δH (400 MHz, DMSO) 7.91 (1H, d, J 7), 8.25 (1H, d, J 5), 8.83 (1H, d, J 5), 9.17 (1H, s), 10.22 (1H, d, J 7); m/z (ES+) 300, 302 (M++H).

reactant | 2,4-Dichloropyrimidine | 2.13 mmol, 317 mg | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | 3-tributylstannyl-7-trifluoromethylimidazo[1,2-α]pyrimidine | 1.4 mmol | C(CCC)[Sn](C1=CN=C2N1C=CC(=N2)C(F)(F)F)(CCCC)CCCC
product | 3-(2-chloropyrimidin-4-yl)-7-trifluoromethylimidazo[1,2-α]pyrimidine | 167 mg | ClC1=NC=CC(=N1)C1=CN=C2N1C=CC(=N2)C(F)(F)F | C11H5ClF3N5
